US04348410
A suspension of trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (47.1 g), β-naphthol (28.8 g) and dicyclohexylcarbodiimide (45.4 g) in pyridine (400 ml) was stirred at room temperature for 24 hours. After evaporation of solvent, to the residue was added water (500 ml), and the mixture was acidified with hydrochloric acid. The resulting white crystals were dissolved in methanol (500 ml). After evaporation of methanol, the residue was recrystallized from methanol to give β-naphtyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride (49.1 g, 67.8%), m.p. 195°-202° C.

reactant | trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 47.1 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | β-naphthol | 28.8 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | dicyclohexylcarbodiimide | 45.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | β-naphtyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride | 49.1 g, 67.8% | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)OC1=CC2=CC=CC=C2C=C1 | InChI=1S/C19H23N3O2.ClH/c20-19(21)22-12-13-5-7-15(8-6-13)18(23)24-17-10-9-14-3-1-2-4-16(14)11-17;/h1-4,9-11,13,15H,5-8,12H2,(H4,20,21,22);1H/t13-,15-;
